US07989628B2
N5-(3-Methoxy-propyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=326.4 (M+H+), was prepared in accordance with the general method of example 3 from 5-bromo-2-chloroquinoline, 5-methyl-2-furanmethanamine and 3-methoxy-propylamine.

reactant | 5-bromo-2-chloroquinoline | BrC1=C2C=CC(=NC2=CC=C1)Cl | C9H5BrClN
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 3-methoxy-propylamine | COCCCN | C4H11NO
product | N5-(3-Methoxy-propyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | COCCCNC=1C=2C=CC(=NC2C=CC1)NCC=1OC(=CC1)C | C19H23N3O2
